### PR TITLE
Add conjectures about Fermat numbers

### PR DESCRIPTION
**Pull request by Reklle**

### CODE REVIEW

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+# Some conjectures about Fermat numbers
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Fermat_number)
+-/
+
+/--
+All Fermat numbers `n > 4` are composite.
+-/
+@[category research open]
+theorem fermat_number_are_composite (n : ℕ) (hn : n ≥ 4) :
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
theorem fermat_number_are_composite (n : ℕ) (hn : 4 < n) :
```
For n=4, we have `Prime  (4).fermatNumber `

**Review by mo271 — COMMENTED** [review]
For all four of those, I'd recommend using the `↔ answer(sorry)` way of formalizing them, because they are phrased as a questions and it is not so clear what the answer would be.

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+theorem infinite_fermat_composite :
+  Infinite {n : ℕ | ¬Prime n.fermatNumber} := by
+  sorry
+
+/--
+There is a Fermat number that is not square-free.
+-/
+@[category research open]
+theorem exists_non_squarefree_fermat_number :
+  ∃ n : ℕ, ¬Squarefree n.fermatNumber := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Fermat.lean]: It seems that people believe all Fermat numbers are squarefree, so I think the negation of the current statement is more conventional:
```suggestion
/--
All Fermat numbers are square-free.
-/
@[category research open]
theorem exists_non_squarefree_fermat_number (n : ℕ) : 
  Squarefree n.fermatNumber := by
```

File: FormalConjectures/Wikipedia/Fermat.lean (hunk 1 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Fermat.lean]: Oops, got confused with the numbering. Thanks for correction!

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Some conjectures about Fermat numbers
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
# Open questions about Fermat numbers
```

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 4]
```diff
@@ -0,0 +1,55 @@
...
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Fermat_number)
+-/
+
+/--
+Is Fermat numbers composite for all `n > 4`.
+-/
+@[category research open]
+theorem fermat_number_are_composite (n : ℕ) (hn : 4 < n) :
+  ¬Prime n.fermatNumber ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
theorem fermat_number_are_composite : (∀ n > 4, ¬Prime n.fermatNumber) ↔ answer(sorry) := by
```
Here you need to be careful so that the `↔` does not happen in the same scope in which `n` is quantified over.

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+  sorry
+
+/--
+Are there infinitely many Fermat primes?
+-/
+@[category research open]
+theorem infinite_fermat_primes :
+  Infinite {n : ℕ | Prime n.fermatNumber} ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
theorem infinite_fermat_primes : Infinite {n : ℕ | Prime n.fermatNumber} ↔ answer(sorry) := by
```
I would just put these on one line (since they are <100 characters)

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 6]
```diff
@@ -0,0 +1,55 @@
...
+  sorry
+
+/--
+Are there infinitely many composite Fermat numbers?
+-/
+@[category research open]
+theorem infinite_fermat_composite :
+  Infinite {n : ℕ | ¬Prime n.fermatNumber} ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
theorem infinite_fermat_composite : Infinite {n : ℕ | ¬Prime n.fermatNumber} ↔ answer(sorry) := by
```

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
...
+  sorry
+
+/--
+All Fermat numbers are square-free.
+-/
+@[category research open]
+theorem all_fermat_squarefree (n : ℕ) : 
+  Squarefree n.fermatNumber := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
/--
Are all Fermat numbers are square-free?
-/
@[category research open, AMS 11]
theorem all_fermat_squarefree : (∀ (n : ℕ), Squarefree n.fermatNumber) ↔ answer(sorry) := by
  sorry
```
To fit with the rest of the questions, I would just formalize this with `answer(sorry)` as well. As @Paul-Lez points out, this is believed to be true, but on the other hand the wiki link asks the negated question, so I believe its better to just use `answer(sorry)` here.

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 8]
```diff
@@ -0,0 +1,55 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Some conjectures about Fermat numbers
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Fermat_number)
+-/
+
+/--
+Is Fermat numbers composite for all `n > 4`.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
Are Fermat numbers composite for all `n > 4`?
```

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 9]
```diff
@@ -0,0 +1,55 @@
...
+-/
+@[category research open]
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
@[category research open, AMS 11]
```

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 10]
```diff
@@ -0,0 +1,55 @@
...
+theorem fermat_number_are_composite (n : ℕ) (hn : 4 < n) :
+  ¬Prime n.fermatNumber ↔ answer(sorry) := by
+  sorry
+
+/--
+Are there infinitely many Fermat primes?
+-/
+@[category research open]
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
@[category research open, AMS 11]
```

File: FormalConjectures/Wikipedia/Fermat.lean [hunk 11]
```diff
@@ -0,0 +1,55 @@
...
+theorem infinite_fermat_primes :
+  Infinite {n : ℕ | Prime n.fermatNumber} ↔ answer(sorry) := by
+  sorry
+
+/--
+Are there infinitely many composite Fermat numbers?
+-/
+@[category research open]
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Fermat.lean]:
```suggestion
@[category research open, AMS 11]
```

**Review by callesonne — COMMENTED** [review]
Thanks for another contribution! :)

File: FormalConjectures/Wikipedia/Fermat.lean (hunk 4 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Fermat.lean]: Thanks for correction!

File: FormalConjectures/Wikipedia/Fermat.lean (hunk 7 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Fermat.lean]: That was a tricky list of conjectures. Thanks a lot for corrections!

**Review by Paul-Lez — APPROVED** [review]
Thanks!
